US08071807B2
Step 3: (3-Benzyloxy-5-chloro-phenyl)-acetic acid methyl ester
A mixture of 2-(3-benzyloxy-5-chloro-phenyl)-malonic acid dimethyl ester (21 g, 60.2 mmol) and lithium chloride (3.06 g, 72.2 mmol) in DMSO:H2O (10:1; 200 mL) was stirred at 150° C. for 5 hours. After cooling to room temperature, H2O (500 mL) was added, and the mixture was extracted with EtOAc:hexanes (1:10; 1.5 L total) to give the title compound.

reactant | 2-(3-benzyloxy-5-chloro-phenyl)-malonic acid dimethyl ester | 60.2 mmol, 21 g | COC(C(C(=O)OC)C1=CC(=CC(=C1)Cl)OCC1=CC=CC=C1)=O | C18H17ClO5
reactant | lithium chloride | 72.2 mmol, 3.06 g | [Cl-].[Li+]
reactant | H2O | 500 mL | O | H2O
solvent | DMSO H2O | 200 mL | CS(=O)C.O
product | (3-Benzyloxy-5-chloro-phenyl)-acetic acid methyl ester | COC(CC1=CC(=CC(=C1)Cl)OCC1=CC=CC=C1)=O | C16H15ClO3
